US05846982
4-fluoro-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
To a solution of 1.18 gm (21.0 mMol) potassium hydroxide in 10 mL methanol were added 1.00 gm (7.4 mMol) 4-fluoro-1H-indole and 1.82 mL (14.8 mMol) 1-methyl-4-piperidone. The reaction mixture was stirred for 28 hours at reflux and then was allowed to cool. The crystals which formed were filtered, washed with methanol and dried under vacuum at 60° C. to give 1.17 gm (69%) of the title compound.

reactant | potassium hydroxide | 21.0 mMol, 1.18 gm | [OH-].[K+]
reactant | 4-fluoro-1H-indole | 7.4 mMol, 1.00 gm | FC1=C2C=CNC2=CC=C1 | C8H6FN
reactant | 1-methyl-4-piperidone | 14.8 mMol, 1.82 mL | CN1CCC(CC1)=O | C6H11NO
solvent | methanol | 10 mL | CO | CH4O
product | 4-fluoro-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 1.17 gm, 69% | FC1=C2C(=CNC2=CC=C1)C=1CCN(CC1)C | C14H15FN2
